US04578395
Synthesis of 2-(N-benzyl-N-methylamino)ethyl methyl 2,6-dimethyl-4-(2,3-dichlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylate (100)
To a solution of 350 mg of 2,3-dichlorobenzaldehyde in 2 ml of 2-prapanol were added 510 mg of 2-(N-benzyl-N-methylamino)ethyl acetoacetate and 250 mg of methyl 3-aminocrotonate. The mixture was refluxed for 12 hours. The solvent was distilled off in vacuo, and then the residue was chromatographed over silica gel with a mixture of chloroform and ethyl acetate as eluting solvents to yield 600 mg of the desired compound. The physical properties are as follows.

reactant | 2,3-dichlorobenzaldehyde | 350 mg | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | 2-(N-benzyl-N-methylamino)ethyl acetoacetate | 510 mg | C(CC(=O)C)(=O)OCCN(C)CC1=CC=CC=C1 | C14H19NO3
reactant | methyl 3-aminocrotonate | 250 mg | N\C(=C/C(=O)OC)\C | C5H9NO2
product | 2-(N-benzyl-N-methylamino)ethyl methyl 2,6-dimethyl-4-(2,3-dichlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | 600 mg | CC=1NC(=C(C(C1C(=O)OCCN(C)CC1=CC=CC=C1)C1=C(C(=CC=C1)Cl)Cl)C(=O)OC)C | C26H28Cl2N2O4
